US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(4,6-dimethoxy-pyrimidin-2-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=610.0 (M+H+), was prepared in accordance with the general method of example 4 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and 2-chloro-4,6-dimethoxypyrimidine.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O2
reactant | 2-chloro-4,6-dimethoxypyrimidine | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(4,6-dimethoxy-pyrimidin-2-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=CC=CC=C3)C3=NC(=CC(=N3)OC)OC)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C28H25F6N5O4
